US08217028B2
To a stirred solution of 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanal (D92) (100 mg), N-methylglycine (43 mg) and acetic acid (0.1 mL) in DCM (15 mL) was added sodium triacetoxyborohydride (103 mg). The reaction was stirred at 40° C. for 3 h. The mixture was cooled to room temperature and partitioned between DCM (25 mL) and water (25 mL). The organic phase was washed with water (25 mL), dried over anhydrous sodium sulphate and evaporated to give the crude product, which was purified by Mass Directed Auto Prep to afford N-{3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propyl}-N-methylglycine (E71) (80 mg, TFA salt). δH (DMSO-d6, 400 MHz): 1.37 (6H, d), 2.08 (2H, m), 2.80 (2H, t), 2.82 (3H, s), 3.18 (2H, t), 4.07 (2H, s), 4.89 (1H, m), 7.23 (1H, t), 7.33 (1H, t), 7.45 (1H, d), 7.84 (1H, d), 7.96 (1H, d), 8.36 (1H, d), 10.87 (1H, s). MS (ES): C26H27ClN4O4 requires 482; found 483.2 (M+H+).

reactant | 3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propanal | 100 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC=O | C22H20ClN3O3
reactant | N-methylglycine | 43 mg | CNCC(=O)O | C3H7NO2
reactant | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 103 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]propyl}-N-methylglycine | 80 mg | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCCN(CC(=O)O)C | C25H27ClN4O4
